US05312815
A mixture of 64.0 g (182 mmol) of (-)-2-(2,4-difluorophenyl)-2-(1-((4-methoxyphenyl)methylthio)-1-methylethyl)oxirane, 25.1 g (364 mmol) of 1,2,4-triazole, 50.3 g (364 mmol) of potassium carbonate, and 910 ml of DMF was stirred at 105° C. for 17 hours. After allowing the mixture to cool, the solvent was removed by distillation under reduced pressure, and to the residue were added dichloromethane and water. The organic layer was separated, washed with a saturated sodium chloride aqueous solution, and dried. The solvent was removed by distillation under reduced pressure, and the residue was purified by column chromatography using a mixed solvent of chloroform and methanol (30:1) as an eluent. The solvent was removed by distillation under reduced pressure to obtain 72.0 g (94%) of (+)-2-(2,4-difluorophenyl)-3-((4-methoxyphenyl)methylthio)-3-methyl-1-(1H-1,2,4-triazol-1-yl)butan-2-ol as a pale yellow oily substance.

reactant | (-)-2-(2,4-difluorophenyl)-2-(1-((4-methoxyphenyl)methylthio)-1-methylethyl)oxirane | 182 mmol, 64.0 g | FC1=C(C=CC(=C1)F)C1(OC1)C(C)(C)SCC1=CC=C(C=C1)OC | C19H20F2O2S
reactant | 1,2,4-triazole | 364 mmol, 25.1 g | N1N=CN=C1 | C2H3N3
reactant | potassium carbonate | 364 mmol, 50.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 910 ml | CN(C)C=O | C3H7NO
product | (+)-2-(2,4-difluorophenyl)-3-((4-methoxyphenyl)methylthio)-3-methyl-1-(1H-1,2,4-triazol-1-yl)butan-2-ol | 72.0 g, 94% | FC1=C(C=CC(=C1)F)C(CN1N=CN=C1)(C(C)(C)SCC1=CC=C(C=C1)OC)O | C21H23F2N3O2S
